US05589489
3-[1-(3,4-Dichlorophenyl)-3-(4-hydroxy-4-phenylpiperidino)propyl]-6-methoxy-2-methyl-2,3-dihydroisoindol-1-one hydrochloride
3-(3,4-Dichlorophenyl)-3-(5-methoxy-2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde (0.59 g) was coupled to 4-hydroxy-4-phenylpiperidine (0.27 g) by a method similar to that described in Example 8. The reaction product was purified by chromatography and converted to the corresponding hydrochloride salt as described in the Example 8 to afford the title compound (0.26 g); mp 154°-180° C. (d); MS: m/z=539(M+1); NMR(CD3SOCD3): 1.73-1.77 (m,2), 2.0 (m,1), 3.79 (two peaks,3), 5.46 (d,1, J=9.5), 6.98 (d,1, J=8), 7.03 (m,2), 7.17-7.58 (m,7), 7.82 (d,1, J=8). Analysis for C30H32Cl2N2O3.2.0 HCl: Calculated: C, 58.83; H, 5.59, N, 4.57; Found: C, 58.39; H, 5.60; N, 4.66.

reactant | 3-(3,4-Dichlorophenyl)-3-(5-methoxy-2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde | 0.59 g | ClC=1C=C(C=CC1Cl)C(CC=O)C1N(C(C2=CC(=CC=C12)OC)=O)C | C19H17Cl2NO3
reactant | 4-hydroxy-4-phenylpiperidine | 0.27 g | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
product | 3-[1-(3,4-Dichlorophenyl)-3-(4-hydroxy-4-phenylpiperidino)propyl]-6-methoxy-2-methyl-2,3-dihydroisoindol-1-one hydrochloride | 0.26 g | Cl.ClC=1C=C(C=CC1Cl)C(CCN1CCC(CC1)(C1=CC=CC=C1)O)C1N(C(C2=CC(=CC=C12)OC)=O)C | InChI=1S/C30H32Cl2N2O3.ClH/c1-33-28(24-10-9-22(37-2)19-25(24)29(33)35)23(20-8-11-26(31)27(32)18-20)12-15-34-16-13-30(36,14-17-34)21-6-4-3-5-7-21;/h3-11,18-19,23,28,36H,12-17H2,1-2H3;1H
